US05723499
231 mg (0.2 mml) of tetrakis-(triphenylphosphine)palladium (0), 50 ml of toluene and 1.75 g (6.6 mmol) of methyl N-methyl-4-iodo-2-pyrrolecarboxylate were introduced into a three-necked flask and under a nitrogen stream and the mixture was stirred at room temperature for 20 minutes. 2.8 g (10 mmol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-anthrylboronic acid and 6.6 ml of an aqueous potassium carbonate solution (2N) were then added and the mixture was heated at reflux for 8 hours. The reaction medium was evaporated to dryness, taken up in water and ethyl ether, the organic phase decanted, dried over magnesium sulfate and evaporated. The residue was purified by chromatography on a silica column eluted with a mixture of dichloromethane and hexane (80/20). 840 mg (47%) of methyl N-methyl-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-anthryl)-2-pyrrolecarboxylate were obtained.

reactant | methyl N-methyl-4-iodo-2-pyrrolecarboxylate | 6.6 mmol, 1.75 g | CN1C(=CC(=C1)I)C(=O)OC | C7H8INO2
reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-anthrylboronic acid | 10 mmol, 2.8 g | CC1(C=2C=C3C=CC(=CC3=CC2C(CC1)(C)C)B(O)O)C | C18H23BO2
reactant | potassium carbonate | 2N, 6.6 ml | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | methyl N-methyl-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-anthryl)-2-pyrrolecarboxylate | 840 mg, 47% | CN1C(=CC(=C1)C1=CC2=CC=3C(CCC(C3C=C2C=C1)(C)C)(C)C)C(=O)OC | C25H29NO2
